US08053165B2
Synthesis of 2,2-adamantane dimethanol
To a mixture of 283 g of 2-adamantane carbaldehyde (which had been synthesized by Darzen reaction of adamantanone with chloroacetate, hydrolysis of the resulting glycidyl ester, and subsequent heating for decarbonation), 300 g of tetrahydrofuran, and 500 ml of methanol under ice cooling, 380 g of a 37% formaldehyde aqueous solution was added and then 350 g of a 25% sodium hydroxide aqueous solution was added dropwise over 30 minutes. After the completion of dropwise addition, the ice bath was removed, and the reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was poured into a saturated sodium chloride aqueous solution, which was extracted with a 1:1 tetrahydrofuran/ethyl acetate mixture. The crude product obtained by concentrating the organic layer was recrystallized from n-hexane/diethyl ether, collecting 288 g (yield 85%) of the target compound.

reactant | 2-adamantane carbaldehyde | 283 g | C12C(C3CC(CC(C1)C3)C2)C=O | C11H16O
reactant | adamantanone | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | chloroacetate | ClCC(=O)[O-]
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | tetrahydrofuran | 300 g | O1CCCC1 | C4H8O
product | 2,2-adamantane dimethanol | C12C(C3CC(CC(C1)C3)C2)(CO)CO | C12H20O2
